US05244894
6.2. 2-[[2-[4-(5-Chloro-2-methoxyphenyl)piperazin-1-yl)ethyl]amino]-N-[3-[(4-oxo-1,4-dihydropyrimidin-2-yl)amino]propyl]pyrimidine-4-carboxamide
3.0 g (7.4 mmols) of methyl 2-[[2-[4-(5-chloro-2-methoxyphenyl)piperazin- 1-yl]ethyl]amino]-pyrimidine-4-carboxylate and 1.5 g (8.9 mmols) of 2-[(3-aminopropyl)amino]pyrimidin-4(1H)-one in 20 ml of n-butanol are introduced into a 100 ml, round bottomed flask. The mixture is heated at the reflux temperature of the solvent for 20 hours and then the solvent is evaporated under reduced pressure.

reactant | methyl 2-[[2-[4-(5-chloro-2-methoxyphenyl)piperazin- 1-yl]ethyl]amino]-pyrimidine-4-carboxylate | 7.4 mmols, 3.0 g | ClC=1C=CC(=C(C1)N1CCN(CC1)CCNC1=NC=CC(=N1)C(=O)OC)OC | C19H24ClN5O3
reactant | 2-[(3-aminopropyl)amino]pyrimidin-4(1H)-one | 8.9 mmols, 1.5 g | NCCCNC=1NC=CC(N1)=O | C7H12N4O
solvent | n-butanol | 20 ml | C(CCC)O | C4H10O
product | 2-[[2-[4-(5-Chloro-2-methoxyphenyl)piperazin-1-yl)ethyl]amino]-N-[3-[(4-oxo-1,4-dihydropyrimidin-2-yl)amino]propyl]pyrimidine-4-carboxamide | ClC=1C=CC(=C(C1)N1CCN(CC1)CCNC1=NC=CC(=N1)C(=O)NCCCNC=1NC=CC(N1)=O)OC | C25H32ClN9O3
